US05053416
1-methyl-3-(4-methyloxazol-2-yl)-pyridinium iodide.
10.8 g of 3-(4-methyloxazol-2-yl)-pyridine and 19.4 g of methyl iodide are mixed together in 140 cm3 of ethanol, then heated under reflux for 6 hours. The solvent is evaporated, the residue is crystallized from a mixture of ethanol and ether and 17 g of expected product is obtained, which is recrystallized from ethanol.

reactant | 3-(4-methyloxazol-2-yl)-pyridine | 10.8 g | CC=1N=C(OC1)C=1C=NC=CC1 | C9H8N2O
reactant | methyl iodide | 19.4 g | CI | CH3I
solvent | ethanol | 140 cm3 | C(C)O | C2H6O
product | 1-methyl-3-(4-methyloxazol-2-yl)-pyridinium iodide | 17 g | [I-].C[N+]1=CC(=CC=C1)C=1OC=C(N1)C | InChI=1S/C10H11N2O.HI/c1-8-7-13-10(11-8)9-4-3-5-12(2)6-9;/h3-7H,1-2H3;1H/q+1;/p-1
